US09162963B2
Synthesis of [4-(3,4-Dichlorobenzyloxy)phenyl]-oxo-acetic acid methyl ester
To [4-(3,4-dichlorobenzyloxy)phenyl]-hydroxy-acetic acid methyl ester (750 g) in ethyl acetate (10 L) was added 2,2,6,6-tetramethylpiperidinyloxy (TEMPO) (10.15 g), KBr (26.25 g), and solid NaHCO3 (185.25 g) in a 22-liter round-bottom flask fitted with an overhead stirrer, thermocouple, and a dropping funnel. The reaction mixture was cooled to 0-5° C. using water/ice. To the cooled reaction mixture, bleach (3375 mL, CLOROX) was added dropwise at such a rate so as to maintain the internal temperature at 0-5° C. After addition of the bleach, the reaction mixture was allowed to reach room temperature and was stirred for 2 hours. LC-MS analysis showed that little of the starting material remained at this point. The reaction mixture was diluted with ethyl acetate (12 L) and the layers were separated. The aqueous layer was washed with ethyl acetate (4 L), and the two volumes of ethyl acetate were combined. The combined ethyl acetate layers were washed with water (10 L) and brine (10 L), dried over anhydrous sodium sulfate, concentrated, and filtered. The resulting solid was washed with hexanes (5 L) and dried at 40° C. under vacuum for 4 hours to yield the title compound.

reactant | [4-(3,4-dichlorobenzyloxy)phenyl]-hydroxy-acetic acid methyl ester | 750 g | COC(C(O)C1=CC=C(C=C1)OCC1=CC(=C(C=C1)Cl)Cl)=O | C16H14Cl2O4
reactant | KBr | 26.25 g | [K+].[Br-]
reactant | NaHCO3 | 185.25 g | C(=O)(O)[O-].[Na+]
solvent | ethyl acetate | 10 L | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 12 L | C(C)(=O)OCC | C4H8O2
product | [4-(3,4-Dichlorobenzyloxy)phenyl]-oxo-acetic acid methyl ester | COC(C(=O)C1=CC=C(C=C1)OCC1=CC(=C(C=C1)Cl)Cl)=O | C16H12Cl2O4
